Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left shoulder pain
 
Major Surgical or Invasive Procedure:
Left total shoulder arthroplasty

 
History of Present Illness:
Ms. ___ is a ___ right-hand dominant woman who has 
had a longstanding history of left
shoulder pain and disability.  She was initially seen and 
evaluated by Dr. ___ at ___.  
She was diagnosed with left glenohumeral arthritis in the 
setting of a left frozen shoulder.  In ___, she was taken to 
the operating room where she underwent an arthroscopic lysis of 
adhesions, manipulation under anesthesia.  This resulted in no 
significant change in her left shoulder function.

She was referred to our attention by Dr. ___. She 
elected to proceed with an intra-articular injection as a 
diagnostic and therapeutic modality. Acknowledging a positive 
initial response, she elected to proceed with a left total 
shoulder arthroplasty for definitive management of her advanced 
glenohumeral osteoarthritis. 

 
Past Medical History:
1. HTN
2. DM
3. GERD
4. Hyperlipidemia
 
Social History:
___
Family History:
Non-contributory for any significant musculoskeletal disease. 
 
Physical Exam:
Afebrile
Vital signs stable
Left shoulder dressing is clean and dry.
She is intact distally with positive APB/EPL/ADQ
She has a 2+ radial pulse
The fingers are warm to touch with good capillary refill. 
 
Brief Hospital Course:
The patient was admitted to the Orthopaedic Sports Medicine 
Service for advanced left glenohumeral osteoarthritis.  The 
patient was taken to the OR and underwent a left total shoulder 
arthroplasty on ___ . Please see operative report for full 
details. The patient tolerated the procedure without difficulty 
and was transferred to the PACU in stable condition, and then 
transferred to the floor in the usual fashion. Postoperatively, 
pain was controlled with an interscalene nerve block, with 
transition to oral pain medication as tolerated. Perioperative 
antibiotics and Aspirin for DVT prophylaxis were given as per 
routine. Diet was advanced without complication and the patient 
made steady progress. The hospitalization has otherwise been 
uneventful and the patient has done well.
  
 At discharge, vital signs are stable, the patient is afebrile, 
tolerating a regular diet, voiding spontaneously every shift and 
pain is well controlled. The extremities are neurovascularly 
intact distally throughout the left upper extremity. All 
incisions are clean, dry and intact without evidence of 
infection, hematoma or seroma.
  
 The patient is discharged home in stable condition.  Patient 
given detailed precautionary instructions and instructions for 
the appropriate follow up care. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Gabapentin 600 mg PO TID 
3. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
4. Simvastatin 20 mg PO QPM 
5. Montelukast 10 mg PO DAILY 
6. Acyclovir 400 mg PO DAILY 
7. esomeprazole magnesium 40 mg oral DAILY 
8. GlipiZIDE 5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
Please do not exceed 3000mg in 24 hours.  
2.  Aspirin EC 325 mg PO DAILY 
Please use this medication for 6 weeks following surgery.   
3.  Docusate Sodium 100 mg PO BID 
Please use as needed while taking the narcotic pain medication.  
 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain  
5.  Acyclovir 400 mg PO DAILY  
6.  esomeprazole magnesium 40 mg oral DAILY  
7.  Gabapentin 600 mg PO TID  
8.  GlipiZIDE 5 mg PO DAILY  
9.  Lisinopril 5 mg PO DAILY  
10.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
11.  Montelukast 10 mg PO DAILY  
12.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Left glenohumeral osteoarthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Total Shoulder Arthroplasty
 Post-Operative Instructions
(with/without Biceps Tenodesis)

Medications
You will be given a prescription for pain medicine.  The pain 
medication is a codeine derivative and should be taken as 
directed.  

Please take one full strength aspirin (325 mg) each day for six 
weeks to decrease the risk of having a complication related to a 
blood clot.

Please take a stool softener, like Colace (Docusate Sodium 
100mg), twice a day while taking narcotics to prevent 
constipation.

Dressing
Leave your dressing for 48 hours after your surgery.  After 48 
hours, you may remove your dressing.  LEAVE THE TAPE STRIPS OVER 
YOUR INCISIONS.  These will stay on for 1.5 to 2 weeks and will 
slowly peel off.

Showering
You may shower 48 hours after your surgery and get your 
incisions wet.  DO NOT immerse in a tub or pool for 7 – 10 days 
to avoid excessive scarring and risk of infection.

When you shower, let your arm hang at your side (Do NOT raise 
your arm).  

To wash under your arm, lean forward carefully and let your arm 
hang.  Using your other hand, wash under your operative arm.  Do 
NOT scrub the incision.  When you are done, stand up and let 
your arm hang at your side.  Pat yourself dry and put your sling 
on.

Ice Packs
Keep Ice Packs on at all times exchanging every hour while 
awake.  Icing is very important to decrease swelling and pain 
and improve mobility.  After 24 hours, continue to use the cuff 
3 – 4 times a day, 15 – 20 minutes each time to keep swelling to 
a minimum.

Activity
•Take it easy.
•Wear your sling for comfort and safety. 
•Keep your arm at your side at ALL TIMES – no reaching, 
grabbing or pulling with your operative arm.

When to Contact Us
If you experience severe pain that your pain medication does not 
help, please let us know. 

If you have a temperature over 101.5º, please contact our office 
at ___.

Physical Therapy:
Sling LUE x 6 weeks
NO SHOULDER ROM
OK for gentle hand, wrist and elbow ROM only
Treatments Frequency:
Dressing changes daily as needed beginning ___
Evaluation and education of effective home safety strategies.
Assessment and education of appropriate post operative pain 
control
 
Followup Instructions:
___